US04634766
7-Hydroxy-1,4-diaza-10H-phenothiazine
Sodium hydride (60 mg, 2.5 mmoles) was added to ethanethiol (124 mg, 2 mmoles) in dry DMF (2 ml) under argon. 7-Methoxy-1,4-diaza-10H-phenothiazine (462 mg, 2 mmoles) was then added and the reaction mixture was refluxed for 3 hours. The mixture was poured into 0.5N HCl (50 ml). The solid was collected, washed with methanol and air-dried to yield starting material. Extraction of the filtrate with ethyl acetate gave 100 mg of a mixture that was chromatographed on silica gel, eluting with 40% ethyl acetate in hexane to yield 25 mg of the title compound.

reactant | Sodium hydride | 2.5 mmoles, 60 mg | [H-].[Na+]
reactant | ethanethiol | 2 mmoles, 124 mg | C(C)S | C2H6S
reactant | 7-Methoxy-1,4-diaza-10H-phenothiazine | 2 mmoles, 462 mg | COC=1C=C2SC=3N=CC=NC3NC2=CC1 | C11H9N3OS
reactant | HCl | 0.5N, 50 ml | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-Hydroxy-1,4-diaza-10H-phenothiazine | 100 mg | OC=1C=C2SC=3N=CC=NC3NC2=CC1 | C10H7N3OS
